US04584290
To a solution of benzhydryl 7-formamido-3-(2,2-dibromovinyl)-2-cephem-4-carboxylate (4.2 g) in ethyl acetate (42 ml) was added a solution of m-chloroperbenzoic acid (1.72 g) in ethyl acetate at -20° to -10° C. and the resultant mixture was stirred at -10° C. for 45 minutes. The precipitates were collected by filtration to give benzhydryl 7-formamido-3-(2,2-dibromovinyl)-3-cephem-4-carboxylate-1-oxide (1.9 g).

reactant | benzhydryl 7-formamido-3-(2,2-dibromovinyl)-2-cephem-4-carboxylate | 4.2 g | C(=O)NC1[C@@H]2N(C(C(=CS2)C=C(Br)Br)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H18Br2N2O4S
reactant | m-chloroperbenzoic acid | 1.72 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethyl acetate | 42 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-formamido-3-(2,2-dibromovinyl)-3-cephem-4-carboxylate-1-oxide | 1.9 g | C(=O)NC1[C@@H]2N(C(=C(CS2=O)C=C(Br)Br)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H18Br2N2O5S
